US04547494
11.5 g of (Z)-2-(2-tritylaminothiazol-4-yl)-2-[((3RS)-2-pyrrolidon-3-yl)oxyimino]acetic acid are suspended in 150 ml of tetrahydrofuran, and 3.2 g of 1-hydroxybenzotriazole and 4.7 g of dicyclohexylcarbodiimide are added thereto under ice-cooling and stirring. The mixture is stirred at room temperature for 2 hours. The mixture is cooled with ice, and 4.9 g of 7β-amino-3-(1-amino-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid dissolved in a mixture of 50 ml of N,N-dimethylacetamide, 2 ml of water and 3 g of triethylamine are added thereto. The mixture is stirred at 5° to 10° C. for one hour and further at room temperature for 15 hours. The reaction mixture is poured into 750 ml of ice-water, and 250 ml of ethyl acetate are added thereto. The mixture is stirred for 10 minutes and insoluble materials are filtered off. The aqueous layer is collected from the filtrate and is adjusted to pH 3 with 10% hydrochloric acid. The oily material thus obtained is extracted with a mixture of ethyl acetate and tetrahydrofuran (10:3). The extract is washed with water, dried and concentrated under reduced pressure to remove solvent. The residue is triturated with ethyl acetate and thus-precipitated powder is collected by filtration. The powder is dissolved in 100 ml of tetrahydrofuran with heating, and 250 ml of ethyl acetate are added thereto. After cooling, crystalline precipitates are collected by filtration. 4.8 g of 7β-{(Z)-2-tritylaminothiazol-4-yl)- 2-[((3RS)-2-pyrrolidon-3-yl)oxyimino]acetamido}-3-(1-amino-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid are obtained as colorless crystals.

reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-[((3RS)-2-pyrrolidon-3-yl)oxyimino]acetic acid | 11.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC1C(NCC1)=O | C28H24N4O4S
reactant | 1-hydroxybenzotriazole | 3.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 4.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 7β-amino-3-(1-amino-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.9 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2N)C(=O)O)C1=O | C9H11N7O3S2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
solvent | water | 2 ml | O | H2O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
product | 3-(1-amino-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | NN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2)=O | C9H10N6O3S2
